US05880130
A mixture of 4-[4'-(2,3-epoxypropoxy)anilino]6-(3'-methylanilino) pyrimidine (0.35 g), 33% dimethylamine in ethanol (10 ml) and DMF (5 ml) was stirred at room temperature for 4 hours. The mixture was poured into water, extracted with ethyl acetate and the organic phase evaporated. The residue was recrystallised from a mixture of methylene chloride, methanol and hexane to give 4-[4'-(3-dimethylamino-2-hydroxypropoxy)anilino]6-(3'-methylanilino) pyrimidine in 54% yield, m.p. 192°-195° C.;

reactant | 4-[4'-(2,3-epoxypropoxy)anilino]6-(3'-methylanilino) pyrimidine | 0.35 g | O1C(COC2=CC=C(NC3=NC=NC(=C3)NC3=CC(=CC=C3)C)C=C2)C1 | C20H20N4O2
reactant | dimethylamine | CNC | C2H7N
reactant | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-[4'-(3-dimethylamino-2-hydroxypropoxy)anilino]6-(3'-methylanilino) pyrimidine | 54% yield | CN(CC(COC1=CC=C(NC2=NC=NC(=C2)NC2=CC(=CC=C2)C)C=C1)O)C | C22H27N5O2
